US05728907
Three moles of 1-bromodecane was slowly added to 3 moles of magnesium turnings in 0.6 liters of anhydrous ethyl ether (nitrogen atmosphere). One mole of diethyl carbonate in 0.151 anhydrous ethyl ether was slowly added to the mixture. After stirring for one hour at 30° C., the mixture was slowly poured into 1.8 liters of a cold 10% HCl solution. The organic layer was dried with magnesium sulfate and the ethyl ether evaporated off to give tri-n-decylcarbinol.

reactant | 1-bromodecane | Three moles | BrCCCCCCCCCC | C10H21Br
reactant | magnesium | 3 moles | [Mg] | Mg
reactant | diethyl carbonate | One mole | C(OCC)(OCC)=O | C5H10O3
reactant | HCl | Cl | ClH
solvent | ethyl ether | 0.6 liters | C(C)OCC | C4H10O
product | tri-n-decylcarbinol | C(CCCCCCCCC)C(O)(CCCCCCCCCC)CCCCCCCCCC | C31H64O
